US08049034B2
2.05 ml (2.05 mmol) of an aqueous solution of sodium hydroxide (1M) are added to a solution of 0.20 g (0.41 mmol) of ethyl 4′-(3-hydroxypropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate in 5 ml of tetrahydrofuran. The reaction mixture is stirred for 48 h while heating at 40° C. The reaction mixture is placed under a stream of nitrogen in order to eliminate the tetrahydrofuran and then 2.5 ml (2.5 mmol) of a solution of hydrochloric acid (1M) are added. The product precipitates in the form of a white solid. After filtration, the product is washed twice with 5 ml of diethyl ether and then placed in an oven under vacuum overnight. 0.17 g of 4′-(3-hydroxypropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylic acid is obtained (white solid, Mp=317° C., yield=90%).

reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | ethyl 4′-(3-hydroxypropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate | 0.41 mmol, 0.20 g | OCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H38O4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4′-(3-hydroxypropoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylic acid | 0.17 g, yield=90% | OCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C30H34O4
